US08207342B2
20.6 g (75 mmol) of diphenyiphosphoryl azide were added at RT to a solution of 1.4 g (5 mmol) of 2-chloro-7-(trifluoromethyl)quinoline-3-carboxylic acid in benzene (500 ml), and the mixture was then heated for 5 h at 90° C. Concentration in vacuo was then carried out and the residue was taken up in THF (80 ml). 4N aq. LiOH soln. (30 ml) was added to this solution, and stirring was carried out for 1 h at RT. Dilution with water and extraction with EA were then carried out. The organic phase was washed with water and brine, dried over Na2SO4, filtered and concentrated in vacuo. CC (hexane/EA 9:1) of the residue yielded 310 mg (1.3 mmol, 26%) of 2-chloro-7-(trifluoromethyl)quinolin-3-amine.

reactant | diphenyiphosphoryl azide | 75 mmol, 20.6 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 2-chloro-7-(trifluoromethyl)quinoline-3-carboxylic acid | 5 mmol, 1.4 g | ClC1=NC2=CC(=CC=C2C=C1C(=O)O)C(F)(F)F | C11H5ClF3NO2
reactant | hexane EA | CCCCCC.CC(OCC)=O
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | 2-chloro-7-(trifluoromethyl)quinolin-3-amine | 1.3 mmol, 310 mg, 26% | ClC1=NC2=CC(=CC=C2C=C1N)C(F)(F)F | C10H6ClF3N2
